US08049029B2
Preparation of 3-bromo-1-(3-chloro-2-pyridinyl)-N-[4-cyano-2-methyl-6-[(methylamino)carbonyl]phenyl]-1H-pyrazole-5-carboxamide (a Compound of Formula 5)
To a mixture of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid (see PCT Patent Publication WO 2003/015519 for a method of preparation) (97.6% purity, 3.10 g, 0.01 mol) and 2-amino-5-cyano-N,3-dimethylbenzamide (i.e. prepared by the method of Example 2) (2.00 g, 0.01 mol) in acetonitrile (24 mL) was added 3-picoline (2.92 mL, 0.03 mol). The mixture was cooled to between −5 and −10° C., and then methanesulfonyl chloride (1.08 mL, 0.014 mol) was added dropwise. The mixture was stirred for 5 minutes at −10 to −5° C., and then for 3 h at 0 to 5° C. After 3 h water (11 mL) was added dropwise to the mixture while maintaining the temperature at 0 to 5° C. After 15 minutes, concentrated hydrochloric acid (1.0 mL) was added and the mixture was stirred for 1 h at 0 to 5° C. The mixture was filtered and the solids collected were washed with acetonitrile-water (2:1 mixture, 2×2 mL) and acetonitrile (2×2 mL), and then dried under nitrogen to afford the title compound (4.78 g, 95.8% corrected yield based on assay of 95%) as an off-white solid melting at 206-208° C.

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 2-amino-5-cyano-N,3-dimethylbenzamide | NC1=C(C(=O)NC)C=C(C=C1C)C#N | C10H11N3O
reactant | 3-picoline | 0.03 mol, 2.92 mL | N1=CC(=CC=C1)C | C6H7N
reactant | methanesulfonyl chloride | 0.014 mol, 1.08 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 1.0 mL | Cl | ClH
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
solvent | water | 11 mL | O | H2O
product | 3-bromo-1-(3-chloro-2-pyridinyl)-N-[4-cyano-2-methyl-6-[(methylamino)carbonyl]phenyl]-1H-pyrazole-5-carboxamide | 4.78 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC)C#N)C)C1=NC=CC=C1Cl | C19H14BrClN6O2
